US06239131B1
Preparation of 2-oxo-3-tert-butoxycarbonylamino-5-phenyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
2-Oxo-3-tert-butoxycarbonylamino-5-(2-cyclohexen-1-yl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (500 mg) was suspended in xylene (20 ml), nitrobenzene (831 mg) and 10% palladium carbon (250 mg) were added therto, and the mixture was refluxed for 2 hours. The reaction mixture was allowed to cool, filtrated, and the filtrate was concentrated under reduced pressure. Diisopropyl ether was added to the residue, crystals so precipitated were collected by filtration, to thereby obtain 413 mg of the titled compound (Yield: 83%).

reactant | 2-Oxo-3-tert-butoxycarbonylamino-5-(2-cyclohexen-1-yl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 500 mg | O=C1C(CN(C2=C(N1)C=C(C=C2)C)C2C=CCCC2)NC(=O)OC(C)(C)C | C21H29N3O3
reactant | nitrobenzene | 831 mg | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | palladium carbon | 250 mg | [C].[Pd]
product | 2-oxo-3-tert-butoxycarbonylamino-5-phenyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 413 mg, Yield: 83% | O=C1C(CN(C2=C(N1)C=C(C=C2)C)C2=CC=CC=C2)NC(=O)OC(C)(C)C | C21H25N3O3
